US06939887B2
Synthesis of 1-(3-chlorophenyl)-2-oxo-7-(trifluoromethyl)-2,3-dihydro-1H-benzimidazole-5-carbonitrile
5-Amino-1-(3-chlorophenyl)-7-(trifluoromethyl)-1,3-dihydro-2H-benzimidazol-2-one (125.1 mg) was dissolved in dimethyl sulfoxide (5 ml), and to the solution was added CuCN (102.6 mg). The mixture was heated at 55° C. At the same temperature, t-butyl nitrite (0.134 ml) was added dropwise during 30 minutes. After the addition was completed, the mixture was stirred at 60° C. for 1 hour. After allowing to cool, to the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated in vacuo. The resultant residue was purified by preparative TLC (2 mm, 20×20 cm, CHCl3:methanol=10:1) and then preparative TLC (2 mm, 20×20 cm, hexane:ethyl acetate=2:1) to give the title compound (31.4 mg, 24%).

reactant | 5-Amino-1-(3-chlorophenyl)-7-(trifluoromethyl)-1,3-dihydro-2H-benzimidazol-2-one | 125.1 mg | NC1=CC2=C(N(C(N2)=O)C2=CC(=CC=C2)Cl)C(=C1)C(F)(F)F | C14H9ClF3N3O
reactant | CuCN | 102.6 mg | C(#N)[Cu]
reactant | t-butyl nitrite | 0.134 ml | N(=O)OC(C)(C)C | C4H9NO2
reactant | water | O | H2O
solvent | dimethyl sulfoxide | 5 ml | CS(=O)C | C2H6OS
product | 1-(3-chlorophenyl)-2-oxo-7-(trifluoromethyl)-2,3-dihydro-1H-benzimidazole-5-carbonitrile | 31.4 mg, 24% | ClC=1C=C(C=CC1)N1C(NC2=C1C(=CC(=C2)C#N)C(F)(F)F)=O | C15H7ClF3N3O
